US06495542B1
N-(2-Aminomethyl-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide (150 mg) was dissolved in a mixture of 1N hydrochloric acid (0.7 ml) and water (5 ml), and the solution was lyophilized to give N-(2-aminomethyl-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide dihydrochloride (132 mg).

reactant | N-(2-Aminomethyl-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide | 150 mg | NCC1=NC2=C(N1)C=CC=C2NC(C2=C(C=C(C=C2)C(=O)N2CCCCC1=C2C=CC=C1)OC)=O | C27H27N5O3
reactant | hydrochloric acid | 1N, 0.7 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | N-(2-aminomethyl-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide dihydrochloride | 132 mg | Cl.Cl.NCC1=NC2=C(N1)C=CC=C2NC(C2=C(C=C(C=C2)C(=O)N2CCCCC1=C2C=CC=C1)OC)=O | InChI=1S/C27H27N5O3.2ClH/c1-35-23-15-18(27(34)32-14-5-4-8-17-7-2-3-11-22(17)32)12-13-19(23)26(33)30-21-10-6-9-20-25(21)31-24(16-28)29-20;;/h2-3,6-7,9-13,15H,4-5,8,14,16,28H2,1H3,(H,29,31)(H,30,33);2*1H
